US07718675B2
b) tert-Butyl {1(S)-(2-amino-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate
The solution of 0.185 g of tert-butyl {1(S)-(2-azido-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate in 6 ml of methanol is hydrogenated in the presence of 0.037 g of 10% Pd/C over 2 hours. The reaction mixture is clarified by filtration and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a slightly greyish oil. Rf=0.08 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=15.47 (gradient II).

reactant | tert-butyl {1(S)-(2-azido-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate | 0.185 g | N(=[N+]=[N-])C[C@H](O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C25H42N4O6
solvent | methanol | 6 ml | CO | CH4O
catalyst | Pd/C | 0.037 g | [Pd] | Pd
product | tert-Butyl {1(S)-(2-amino-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate | NC[C@H](O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C25H44N2O6
